US08211908B2
To a solution of 71 mg of 4-methoxy-5-methylpyridine-2-carbaldehyde in 2 mL of methanol, 0.27 g of a 28% sodium methoxide/methanol solution, 0.19 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride and 27 μL of acetic acid were added. Then, 59 mg of sodium cyanoborohydride was added thereto and the mixture was stirred at room temperature for 4 hours. To the reaction mixture, chloroform and a saturated aqueous sodium hydrogen carbonate solution were added. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using gradient elution with chloroform:methanol=19:1 to 86:14 to obtain 0.13 g of 7-methoxy-1-(2-(4-(((4-methoxy-5-methylpyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one as a yellow oily substance.

reactant | 4-methoxy-5-methylpyridine-2-carbaldehyde | 71 mg | COC1=CC(=NC=C1C)C=O | C8H9NO2
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.19 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | sodium cyanoborohydride | 59 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 27 μL | C(C)(=O)O | C2H4O2
product | 7-methoxy-1-(2-(4-(((4-methoxy-5-methylpyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one | 0.13 g | COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=NC=C(C(=C1)OC)C)=O | C24H31N5O3
